US07569578B2
(7-methyl-1H-indazol-5-yl)-acetaldehyde
To a solution of 5-(2-methoxy-vinyl)-7-methyl-1H-indazole (365 mg, 1.94 mmol, 1.0 equiv.) in tetrahydrofuran (8 mL) was added 60% perchloric acid (0.63 mL, 3 equiv) in one portion under nitrogen. After 2 h, more perchloric acid (0.63 mL) was added. After 4 h, LCMS indicated that no starting material was present. The reaction mixture was diluted with water and ethyl acetate. The layers were separated and the organic layer was washed with water (3×). The organic layer was separated, dried over sodium sulfate and concentrated in vacuo to give an off-white solid. The crude material was carried on without further purification. MS (ESI) [M+H]+=175.

reactant | 5-(2-methoxy-vinyl)-7-methyl-1H-indazole | 1.94 mmol, 365 mg, 1.0 equiv. | COC=CC=1C=C2C=NNC2=C(C1)C | C11H12N2O
reactant | perchloric acid | 0.63 mL, 3 equiv | Cl(=O)(=O)(=O)O | ClHO4
reactant | perchloric acid | 0.63 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (7-methyl-1H-indazol-5-yl)-acetaldehyde | CC=1C=C(C=C2C=NNC12)CC=O | C10H10N2O
